US06518306B1
2-(4-Bromophenyl)-2-(3-cyclopentyloxy-4-methoxyphenyl)acetaldehyde
Chloromethyltrimethylsilane (1.875 g, 15.37 mmol) in dry THF (45 ml) at −78° C. was treated with sec-butyllithium (13.0 ml of 1.3 M solution in cyclohexane, 16.88 mmol) followed by TMEDA (2.4 ml, 16.1 mmol). The mixture was stirred for 40 min, then warmed to −55° C. 4′-Bromo-4-cyclopentoxy-3-methoxybenzophenone (4.0 g, 10.6 mmol) in THF (20 ml) was added and the mixture stirred at −40° C. for 0.5 h. It was then warmed to room temperature gradually and stirred for an additional 18 h. The reaction was quenched with aqueous ammonium chloride solution and the resultant mixture extracted three times with ethyl acetate. The combined organic extract was washed with water then brine, dried (sodium sulfate) and evaporated. The residue was purified by flash chromatography (silica gel, 4% ethyl acetate/96% hexane). The resulting yellow oil was stirred in 50 ml of 20% trifluoroacetic acid in dichlomethane for one hour then washed three times with water, once with dilute sodium bicarbonate, twice with water, once with brine and dried (sodium sulfate). The solvent was evaporated to provide the title compound as a yellow oil (1.757 g, 42.5%). 1H-NMR (400 MHz, CDCl3): δ 9.87 (s, 1H), 7.49 (d, 2H, J=8.4), 7.07 (d, 2H, J=8.4), 6.87 (d, 1H, J=8.2), 6.70 (dd, 1H, J=2.2, J=8.3), 6.68 (d, 1H, J=2.2).

reactant | Chloromethyltrimethylsilane | 15.37 mmol, 1.875 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | sec-butyllithium | 16.88 mmol, 1.3 M, 13.0 ml | C(C)(CC)[Li]
reactant | TMEDA | 16.1 mmol, 2.4 ml | CN(C)CCN(C)C | C6H16N2
reactant | 4′-Bromo-4-cyclopentoxy-3-methoxybenzophenone | 10.6 mmol, 4.0 g | BrC1=CC=C(C=C1)C(C1=CC(=C(C=C1)OC1CCCC1)OC)=O | C19H19BrO3
reactant | THF | 45 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(4-Bromophenyl)-2-(3-cyclopentyloxy-4-methoxyphenyl)acetaldehyde | 1.757 g, 42.5% | BrC1=CC=C(C=C1)C(C=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C20H21BrO3
